US05399578
b) N-(2'-Cyanobiphenyl-4-ylmethyl)-N-methoxycarbonylmethyl-amine
A mixture of 2.0 g of 2'-cyano-4-formyl-biphenyl, 1.22 g of 2-aminoethanoic acid methyl ester hydrochloride, 9.6 g of molecular sieve 5 A and 26 ml of tetrahydrofuran is stirred at room temperature for 36 hours and then cooled to 0° to 5°. 680 mg of sodium cyanoborohydride (90%) dissolved in 4.8 ml of methanol are added. The mixture is stirred at room temperature for 24 hours and then concentrated in vacuo. The crude product is purified by means of flash chromatography (180 g of silica gel; ethyl acetate/petroleum ether=1:1). 1H-NMR (DMSO-d6): 3.63 ppm (s, 3 H); 3.79 ppm (s, 2H); 7.4 to 8.0 ppm (m, 10H); 2.6 ppm (1H).

reactant | 2'-cyano-4-formyl-biphenyl | 2.0 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)C=O | C14H9NO
reactant | 2-aminoethanoic acid methyl ester hydrochloride | 1.22 g | Cl.COC(CN)=O
reactant | tetrahydrofuran | 26 ml | O1CCCC1 | C4H8O
reactant | sodium cyanoborohydride | 680 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 4.8 ml | CO | CH4O
product | N-(2'-Cyanobiphenyl-4-ylmethyl)-N-methoxycarbonylmethyl-amine | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CNCC(=O)OC | C17H16N2O2
